data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7121,"C1=CCC2CCC(C1)N=C2[O:1][H:2].CC1=CC=C(S(=O)(=O)[O-])C=C1.[Cl-].[Na+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6421,"CC(=O)[O-].CC12CCC3C(CCC45CC34CC[C:1]34SCC[S+:2]3C54)C1CCC2=O.CS(=O)(=O)[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,117,"C1CCNCC1.CC(=O)[O-:1].COC(=O)C(=C[CH:2](C1=CC=CC=C1)[H:3])C(=O)O.[OH3+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3123,"CCNC(C)[NH:1]C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6609,"CC1=CC=CC(C)(C)CC2[C:1](C)(CCC1)[O+:2]2[Sn-]([Cl])([Cl])([Cl])[Cl].Cl|((1, 2), 2)"
train,pmechdb_split_0,0,5197,"CC(O)(C1=CC=CC=C1)C(C1=CC=CC=C1)[OH:1].O=S(=O)(C1=CC=C(C(F)(F)F)C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6281,"C[S:1][Br:2].O=C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6150,"CCN(CC)C(C)(C)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7339,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1=C(C[O-:2])C=C2OCOC2=C1|(2, 1)"
train,pmechdb_split_0,0,7818,"C1CCC2=[NH+]CCCN2CC1.CC=C[C:1](C(C1=CC=C(Br)C=C1)C(C(=O)C1=CC=CC=C1)C(=O)C1=CC=CC=C1)([C:2]1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2COC3CC4=C(C=CC=C4)C3N21)[O-:3].F[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2781,"C1=CC=C(C=CC(NCC2=CC=CC=C2)[O-:1])C=C1.C1=CC=C(C[NH2+:2][H:3])C=C1.CO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4799,"CC(C)O.CC(C)[O][Al-:1]([O]C(C)C)([O]C1CCCCC12CCCCC2=O)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,8329,"CC(CCC1(C)CC(C)(C)C=CC1=O)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1913,"C1=CC(OC2CCCC2)=CC([CH:1]=[O:2])=C1.[Cl][Mg:3][CH3:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5611,"C1=CC=C([NH2:1])C=C1.CC1=CC=C(S(=O)(=O)[O:2][CH2:3]CC2=CC=C([N+](=O)[O-])C=C2)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3290,"C1=C[CH:1]=[CH:2]C=C1.C[C+:3](C)C|((2, 1), 3)"
train,pmechdb_split_0,0,6645,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.C[C:3](=[CH2:4])[O:5]C.OCCO|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7322,"CC[NH+](CC)CC.C[Si](C)(C)CCOC(=O)NC1CCC(C(=N)O[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F)CC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,556,"C1=CC=C(C=[O:1])C=C1.CC=C(C)O[B:2]1OC(C)(C)C(C)(C)O1|(1, 2)"
train,pmechdb_split_0,0,5872,"C[CH:1]([H:2])[CH:3]=[OH+:4].O=S(=O)(O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3018,"C#CCC[C:1]1=[C:2]([O-:3])CCC1C.C[Si](C)(C)[C:4]([C:5](C)=[O:6])=[CH2:7].[Li][Cu+][CH3]|(3, 2);((2, 1), 7);((7, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,2060,"C=CC(=O)O[C:1](C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8637,"C[O+:1]([B-](F)(F)F)[C:2](C)(C)[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5091,"CC(=O)CCC(=O)C1=CC(C(=O)CCC(C)=O)=CC(C2(O)CC=C(C)[NH+:1]2[H:2])=C1.CC(=O)[O-:3].O.O=C[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,94,"CO[C:1](OC)=[NH2+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,463,"C[S:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5540,"O[CH:1]=[NH2+:2].[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,978,"C1=CN=CC(C2=CC3CC(C2)C[N:1]([CH2:2][OH2+:3])C3)=C1.C1=CN=CC(C2=CC3CNCC(C2)C3)=C1.O=C[O-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3631,"C1CCOC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCC[O+:1](C(O)(O)C1=CC(O)=C(O)C=C1)[H:2].CCCCCCCC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3684,"O=S(=O)(O)[O:1][H:2].[Br][Mg:3][C:4]1=CC=CC=C1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5576,"C=[N+:1](C)[H:2].CN(C=[N:3]C)[Si-](C)(C)(C)Cl|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6863,"O=C(CC1=CC=CC=C1)C[C:1](Cl)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4040,"CC#CN(C)S(C)(=O)=O.CC#[N+][Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,9610,"[AlH3-][O]CC1=CC=CC=[C:1]1[Mg:2][Br].[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8994,"CCNCCC=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4030,"C=CC1(C)CCC2(C)C(=C)C1C([O:1][Zn-]([Cl])[Cl])CC2C.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,418,"O=S(=O)(O)[O:1][H:2].OCCC1C[O:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2527,"O=S(=O)(O)C1=CC2=C(C=C1)C=C[CH+:1][C:2]2(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7308,"CCCC.[Li][O]C1(C)CC[CH:1]([O:2]C)[C:3]1(CCCC)[Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5282,"CC1(C)C2CCC(C2)[C+:1]1[CH2:2][H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8596,"CCN1CCC23C=CCCC2(O)C1CC1=C3C([O-:1])=C(OC)C=C1.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6970,"CC(=O)O[C:1](C)=[O:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3103,"C[C+:1]=O.N#CC1=C2C=C[CH:2]=[CH:3]C2=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,10155,"CO[P+](O)(OC)O[C:1](C)=[O:2].[N-]=[N+]=[N-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8495,"CO[C:1](C)=[O+:2]C.C[SH:3]|(3, 1);((1, 2), 2)"
